US06869962B2
2-(Hydroxymethyl)-7-chlorothieno[3,2-b]pyridine
7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid lithium salt (2.0 g, 9.1 mmole) was dissolved in a solution of DMF (10 mL) and chloroform (50 mL). The carboxylate was treated with thionyl chloride (2.0 mL, 27.3 mmole) and refluxed for one hour. The resultant acid chloride was cooled to room temperature and added dropwise to a solution of sodium borohydride (0.7 g, 18.2 mmole) in DMF (10 mL) at 0° C. The temperature was allowed to reach room temperature over 2 hours and the reaction was quenched with concentrated HCl. The reaction mixture was neutralized with NaOH and the workup was performed with MTBE, brine and MgSO4. The crude product was triturated with MTBE, which provided the title compound as a beige solid (0.7 g, 40%): 1H-NMR (DMSO-d6, 400 MHz) δ8.58 (1H, d, J=5.1 Hz), 7.51 (1H, d, J=5.1 Hz), 7.47 (1H, s), 5.94 (1H, t, J=5.8 Hz), 4.84-4.82 (2H, m); MS m/z 200 (M+H)+.

reactant | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid lithium salt | 9.1 mmole, 2.0 g | [Li+].ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-]
reactant | thionyl chloride | 27.3 mmole, 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium borohydride | 18.2 mmole, 0.7 g | [BH4-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(Hydroxymethyl)-7-chlorothieno[3,2-b]pyridine | 0.7 g, 40% | OCC1=CC2=NC=CC(=C2S1)Cl | C8H6ClNOS
